US06303742B1
3,5 dinitrobenzoic acid and ethyl acetate were placed in a reaction vessel. While thionyl chloride with some drops of DMF (about double as many moles as dinitrobenzoic acid) was dropped into the reaction mixtures, the reaction mixtures were refluxed with stirring until the generation of hydrogen chloride gas stopped. The reacted solution was concentrated until a solid could be precipitated and was poured into hexane and then the precipitated solid was separated by filtration. 3,5-dinitrobenzoic chloride was obtained in a 90% yield.

reactant | 3,5 dinitrobenzoic acid | [N+](=O)([O-])C=1C=C(C(=O)O)C=C(C1)[N+](=O)[O-] | C7H4N2O6
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | dinitrobenzoic acid | [N+](=O)([O-])C=1C(=C(C(=O)O)C=CC1)[N+](=O)[O-] | C7H4N2O6
reactant | hydrogen chloride | Cl | ClH
solvent | DMF | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3,5-dinitrobenzoic chloride | 90% yield | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=C(C1)[N+](=O)[O-] | C7H3ClN2O5
